US07572811B2
To a solution of 1-Bromo-4-methoxy-2-trifluoromethyl-benzene (500 mg, 1.961 mmol) in 1,4-dioxane (8 mL) is added sequentially: piperidine (2 eq., 3.921 mmol, 0.41 mL), Pd2dba3 (2 mol %, 0.039 mmol, 36 mg), KtOBu (1.5 eq., 2.941 mmol, 330 mg) and 1,3-(Bis(2,6-di-iso-propylphenyl)-imidazolium chloride (iPrHCl, 4 mol %, 0.078 mmol, 33 mg). The resulting reaction mixture is heated in a sealed tube at 150° C. oil bath for 12 hours. After cooling to room temperature, the reaction mixture is concentrated. The residue obtained is partially purified by silica gel chromatography (9:1 hexanes/EtOAc) to give crude 1-(4-Methoxy-2-trifluoromethyl-phenyl)-piperidine.

reactant | 1-Bromo-4-methoxy-2-trifluoromethyl-benzene | 1.961 mmol, 500 mg | BrC1=C(C=C(C=C1)OC)C(F)(F)F | C8H6BrF3O
reactant | piperidine | 3.921 mmol, 0.41 mL, 2 eq. | N1CCCCC1 | C5H11N
reactant | Bis(2,6-di-iso-propylphenyl)-imidazolium chloride | 0.078 mmol, 33 mg | [Cl-].C(C)(C)C1=C(C(=CC=C1)C(C)C)C1=[N+](C=CN1)C1=C(C=CC=C1C(C)C)C(C)C
solvent | 1,4-dioxane | 8 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2dba3 | 0.039 mmol, 36 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 1-(4-Methoxy-2-trifluoromethyl-phenyl)-piperidine | COC1=CC(=C(C=C1)N1CCCCC1)C(F)(F)F | C13H16F3NO
